US06331539B1
1-(4-Aminobutyl)-2-phenyl-1H-imidazo[4,5-c]quinolin-4-amine (0.331 g, 1.0 mmol) was dissolved in anhydrous acetonitrile (35 mL) and the solution was cooled to 4° C. A solution of 4-fluorobenzenesulfonyl chloride (0.194 g, 1.0 mmol) in anhydrous dichloromethane (10 mL) was slowly added. The reaction was allowed to slowly warm to ambient temperature over the weekend. The reaction was quenched by the addition of aqueous saturated sodium bicarbonate solution. The layers were separated and the organic layer was concentrated to provide a pale yellow solid. This material was recrystallized from isopropyl alcohol and then further purified by flash chromatography (silica gel eluting with 10% methanol in dichloromethane). The pure fractions were combined and concentrated. The residue was recrystallized from isopropyl alcohol to provide 0.2 g of N-[4-(4-amino-2-phenyl-1H-imidazo[4,5-c]quinolin-1-yl) butyl]-4-fluoro-1-benzenesulfonamide as a pale yellow solid, m.p. 214-216° C. Analysis: Calculated for C26H24FN5O2S: % C, 63.79; % H, 4.94; % N, 14.30; Found: % C, 63.19; % H, 4.85; % N, 13.90. Mass spec M+1=490.2

reactant | 1-(4-Aminobutyl)-2-phenyl-1H-imidazo[4,5-c]quinolin-4-amine | 1.0 mmol, 0.331 g | NCCCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)C2=CC=CC=C2 | C20H21N5
reactant | 4-fluorobenzenesulfonyl chloride | 1.0 mmol, 0.194 g | FC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClFO2S
solvent | acetonitrile | 35 mL | C(C)#N | C2H3N
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | N-[4-(4-amino-2-phenyl-1H-imidazo[4,5-c]quinolin-1-yl) butyl]-4-fluoro-1-benzenesulfonamide | 0.2 g | NC1=NC=2C=CC=CC2C2=C1N=C(N2CCCCNS(=O)(=O)C2=CC=C(C=C2)F)C2=CC=CC=C2 | C26H24FN5O2S
